US07172749B2
Synthesis of N-{4-[(3,4-dichloro-6-fluorophenyl)amino]quinazoline-6-yl}acrylamide (Compound 3):
Acryloyl chloride was reacted with 4-[(3,4-dichloro-6-fluorophenyl)amino]-6-aminoquinazoline in THF, at 0° C. The final product was obtained in quantitative yield.

reactant | Acryloyl chloride | C(C=C)(=O)Cl | C3H3ClO
reactant | 4-[(3,4-dichloro-6-fluorophenyl)amino]-6-aminoquinazoline | ClC=1C=C(C(=CC1Cl)F)NC1=NC=NC2=CC=C(C=C12)N | C14H9Cl2FN4
solvent | THF | C1CCOC1 | C4H8O
product | N-{4-[(3,4-dichloro-6-fluorophenyl)amino]quinazoline-6-yl}acrylamide | quantitative yield | ClC=1C=C(C(=CC1Cl)F)NC1=NC=NC2=CC=C(C=C12)NC(C=C)=O | C17H11Cl2FN4O
